2107-09-25 10:25:00 Physician Attending Progress Note
Chief Complaint: Hyperkalemia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Medications adjusted with removal of offending agents
   K+ decrease to 6.2
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle problems
   [**Name (NI) 1928**] dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2107-9-24**] 11:16 AM
   Furosemide (Lasix) - [**2107-9-24**] 12:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-9-25**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 64 (59 - 72) bpm
   BP: 147/59(81) {119/42(63) - 164/139(145)} mmHg
   RR: 9 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,040 mL
                                                                    630 mL
   PO:
                                                                    800 mL
                                                                    630 mL
   TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,325 mL
   Urine:
                                                                  1,350 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -695 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   271 K/uL
   95 mg/dL
   1.4 mg/dL
   24 mEq/L
   6.2 mEq/L
   11 mg/dL
   106 mEq/L
   133 mEq/L
   27.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2107-9-24**]  05:58 AM
                             [**2107-9-24**]  07:43 AM
                             [**2107-9-25**]  04:08 AM
   WBC
   6.9
   5.5
   Hct
   28.1
   27.9
   Plt
   313
   271
   Cr
   1.4
   1.4
   TCO2
   23
   Glucose
   91
   41
   95
   Other labs: Differential-Neuts:66.1 %, Lymph:24.0 %, Mono:6.5 %,
   Eos:3.0 %, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   66 yo male with DM-II, PVD and with MRSA abscess in right thigh who had
   evluation in ED for hyperkalemia seen in PCP [**Name Initial (PRE) 1088**].  Interesting
   source likely related to ACE/[**Last Name (un) 284**]/NSAIDS/Bactrim/Triamterene and
   medications now adjusted appropriately.
   1)Hyperkalemia--Improved with medical Rx and removal of offending
   medications, cortisol normal and TSH mildly elevated.  TTK+ gradient is
   low in the setting of hyperkalemia which would argue for impairment at
   the level of the kidney and would be consistent with the working
   diagnosis of medication effects impairing renal processing of K+
   -D/C meds
   -Follow to resolution
   -More careful restart of medications
   2)MRSA--
   Change to Linezolid
   3)HTN-
   -Clonidine
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2107-9-24**] 05:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2107-09-26 11:26:00 Physician Attending Progress Note
Chief Complaint: Hyperkalemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -K+ improved today to <6
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle problems
   [**Name (NI) 1928**] dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2107-9-26**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (63 - 78) bpm
   BP: 137/46(70) {126/46(69) - 159/72(88)} mmHg
   RR: 9 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                    730 mL
                                                                    420 mL
   PO:
                                                                    730 mL
                                                                    420 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  2,150 mL
   Urine:
                                                                  2,750 mL
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,020 mL
                                                                 -1,730 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   281 K/uL
   94 mg/dL
   1.4 mg/dL
   25 mEq/L
   5.7 mEq/L
   9 mg/dL
   106 mEq/L
   134 mEq/L
   26.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2107-9-24**]  05:58 AM
                             [**2107-9-24**]  07:43 AM
                             [**2107-9-25**]  04:08 AM
                             [**2107-9-26**]  05:15 AM
   WBC
   6.9
   5.5
   4.7
   Hct
   28.1
   27.9
   26.3
   Plt
   [**Telephone/Fax (3) 8258**]
   Cr
   1.4
   1.4
   1.4
   TCO2
   23
   Glucose
   91
   41
   95
   94
   Other labs: Differential-Neuts:66.1 %, Lymph:24.0 %, Mono:6.5 %,
   Eos:3.0 %, Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   66 yo male with admission with significant hyperkalemia who now has had
   substantial improvement with decrease and indeed hold of offending
   medications in the setting of low trans-tubular potassium gradient.
   -HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)-
   -K+ decreased to 5.7
   -AM cortisol pending
   -Appreciate renal input and plans to maintain a more balanced
   medication regimen
   -WIll need follow up to consider alternative causes but with
   hypo-aldosterone considered unlikely medications are really quite
   likely a complete explanation.
   -Lasix continuing
   MRSA Abscess-
   -Dressing changes
   -Continued monitoring
   -Linezolid q 12 hours
   HTN-
   -Reasonable control on current regimen
   -Clonidine
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-9-24**] 05:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes